US07683195B2
Sodium hydroxide (1.92 g) was dissolved in water (10 mL) and ethyl 2-ethylacetoacetate (6.32 g: made by Wako Pure Chemical Industries) was added while stirring at room temperature, and this was further stirred for 30 minutes. The ethanol was subsequently removed with a rotary evaporator, and the remaining aqueous layer was washed with ether. To this was added ether (20 mL), and then, while stirring and chilling with ice, a solution of concentrated sulfuric acid 2.35 g dissolved in water 8 mL was added dropwise. The ether layer was fractioned off, and the aqueous layer was salt precipitated and extracted with ether. The ether layers were combined to yield an ether solution of α-ethylacetoacetic acid.

reactant | Sodium hydroxide | 1.92 g | [OH-].[Na+]
reactant | ethyl 2-ethylacetoacetate | 6.32 g | C(C)C(C(=O)OCC)C(=O)C | C8H14O3
solvent | water | 10 mL | O | H2O
product | α-ethylacetoacetic acid | C(C)C(C(=O)O)C(=O)C | C6H10O3
